US04652567
1,10a-Dihydro-7-fluoropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione
To a solution of 50.00 g of (±)-1-[(3-fluorophenyl)-methyl]-5-oxo-2-pyrrolidine carboxylic acid in sieve dried dichloromethane (450 ml), 27.48 g of thionyl chloride was added, and the resultant solution was stirred and refluxed for 5 hours. An infrared spectrum of the solution indicated the presence of the acid chloride. After standing overnight at ambient temperature, the solution was chilled to 5° C. and 84 g of aluminum chloride was added in portions with vigorous stirring. The reaction was exothermic and there was a slow evolution of gas. The mixture was stirred at ambient temperature for 3 hours. The reaction was quenched by the addition of ice chips and water. The two phases of the mixture were separated and the aqueous phase was extracted with dichloromethane (4×150 ml). The combined organic phase was dried (Na2SO4) and concentrated to a solid (69.73 g).

reactant | (±)-1-[(3-fluorophenyl)-methyl]-5-oxo-2-pyrrolidine carboxylic acid | 50.00 g | FC=1C=C(C=CC1)CN1C(CCC1=O)C(=O)O | C12H12FNO3
reactant | thionyl chloride | 27.48 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 84 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 1,10a-Dihydro-7-fluoropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | FC=1C=CC=2C(C3N(CC2C1)C(CC3)=O)=O | C12H10FNO2
